US07291631B2
To a solution of 3-(4,4-dimethoxy-butyl)-1-(benzyloxy)-urea (4.14 g, 14.7 mmol) in DMF (40 mL) was added NaH (60 wt % in mineral oil, 0.659 g, 16.5 mmol). After 30 minutes, 1,2-dibromoethane (1.30 mL, 15.1 mmol) was added and the mixture was stirred for an additional 40 minutes. An additional amount of NaH (60 wt % in mineral oil, 0.636 g, 15.9 mmol) was added and the mixture was stirred at room temperature for 3 hours. The mixture was diluted with EtOAc (150 mL), washed with brine (5×25 mL), dried (MgSO4), and concentrated. Purification of the crude material by column chromatography on silica gel (1:1 hexanes-EtOAc) provided 1.61 g (36%) of 1-Benzyloxy-3-(4,4-dimethoxy-butyl)-imidazolidin-2-one as a colorless oil.

reactant | 3-(4,4-dimethoxy-butyl)-1-(benzyloxy)-urea | 14.7 mmol, 4.14 g | COC(CCCNC(NOCC1=CC=CC=C1)=O)OC | C14H22N2O4
reactant | NaH | 16.5 mmol, 0.659 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 15.1 mmol, 1.30 mL | BrCCBr | C2H4Br2
reactant | NaH | 15.9 mmol, 0.636 g | [H-].[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 1-Benzyloxy-3-(4,4-dimethoxy-butyl)-imidazolidin-2-one | 1.61 g, 36% | C(C1=CC=CC=C1)ON1C(N(CC1)CCCC(OC)OC)=O | C16H24N2O4
